US04194047
Ethyl formimidate hydrochloride (0.555 g, 5 mmole), 2,2,2-trifluoroethylamine hydrochloride (0.677 g, 5 mmole) and potassium carbonate (0.345 g, 2.5 mmole) are suspended in 20 ml CH2Cl2 and treated with 2 ml H2O. The mixture is shaken vigorously for 3 minutes. The organic phase is separated and the aqueous extracted twice with 10 ml portions of CH2Cl2The combined organic phase is dried and the CH2Cl2 distilled through a Vigreauxe column to give the Ethyl N-(2,2,2-trifluoroethyl)formimidate. n.m.r. δ1.33 t (CH3CH2); 3.8 q (j=10 c.p.s., CF3CH2) 4.23 q (j=7.5, CH3CH2O); 7.6 S (H-C=N).

reactant | Ethyl formimidate hydrochloride | 5 mmole, 0.555 g | Cl.C(OCC)=N
reactant | 2,2,2-trifluoroethylamine hydrochloride | 5 mmole, 0.677 g | Cl.FC(CN)(F)F
reactant | potassium carbonate | 2.5 mmole, 0.345 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 2 ml | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-(2,2,2-trifluoroethyl)formimidate | FC(CN=COCC)(F)F | C5H8F3NO
